US07105664B2
Preparation of 5-chloro-6-(2-chloro-6-fluorophenyl)-7-(1,1,1-trifluorobut-4-yl)-amino-[1,2,4]-triazolo(1,5-α]pyrimidine [I-9]
A solution of 1.5 mmol 1,1,1-trifluorobutane-4-amine, 1.5 mmol triethylamine in 10 ml dichloromethane is added to a solution of 1.5 mmol 5,7-dichloro-6-(2-chloro-6-fluorophenyl)-[l,2,4]-triazolo[1,5-α]pyrimidine [cf. EP-A 550 113] in 20 ml dichloromethane. The combined solution was stirred for about 16 hours at 20 to 25° C. and subsequently washed with diluted (5%) hydrochloric acid. The organic phase was separated, dried and filtered. Distillative removal of the solvent from the filtrate and chromatography over silica gel yielded 0.45 g of the title compound of mp. 115° C.

reactant | 1,1,1-trifluorobutane-4-amine | 1.5 mmol | FC(CCCN)(F)F | C4H8F3N
reactant | triethylamine | 1.5 mmol | C(C)N(CC)CC | C6H15N
reactant | 5,7-dichloro-6-(2-chloro-6-fluorophenyl)-[l,2,4]-triazolo[1,5-α]pyrimidine | 1.5 mmol | ClC1=NC=2N(C(=C1C1=C(C=CC=C1F)Cl)Cl)N=CN2 | C11H4Cl3FN4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-chloro-6-(2-chloro-6-fluorophenyl)-7-(1,1,1-trifluorobut-4-yl)-amino-[1,2,4]-triazolo(1,5-α]pyrimidine | 0.45 g | ClC1=NC=2N(C(=C1C1=C(C=CC=C1F)Cl)CCCC(F)(F)F)N=C(N2)N | C15H11Cl2F4N5
